US07319096B2
Methyl-2-tert-butoxycarbonylamino-3-(3,5-dibromo-4-hydroxyphenyl)propionate (0.035 mmol) was coupled with 2-chloromethylpyridine and hydrolyzed using the method described in “General procedure for the preparation of Examples 8-22”. This gave 21% yield of 2-amino-3-[3,5-dibromo-4-(pyridin-2-ylmethoxy)phenyl]propionate triethylammonium. LC/MS (electrospray): m/z 429 (M−1).

reactant | Methyl-2-tert-butoxycarbonylamino-3-(3,5-dibromo-4-hydroxyphenyl)propionate | 0.035 mmol | COC(C(CC1=CC(=C(C(=C1)Br)O)Br)NC(=O)OC(C)(C)C)=O | C15H19Br2NO5
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
product | 2-amino-3-[3,5-dibromo-4-(pyridin-2-ylmethoxy)phenyl]propionate triethylammonium | 21% yield | C(C)[NH+](CC)CC.NC(C(=O)[O-])CC1=CC(=C(C(=C1)Br)OCC1=NC=CC=C1)Br | InChI=1S/C15H14Br2N2O3.C6H15N/c16-11-5-9(7-13(18)15(20)21)6-12(17)14(11)22-8-10-3-1-2-4-19-10;1-4-7(5-2)6-3/h1-6,13H,7-8,18H2,(H,20,21);4-6H2,1-3H3
